US09428510B2
0.99 ml (6.98 mmol) of trifluoroacetic anhydride and 1.12 ml (8.06 mmol) of triethylamine are added to 2.2 g (5.3 mmol) of tert-butyl 2-(4,4-difluorocyclohexylamino)-4-(4-methylpiperazin-1-yl)benzoate dissolved in 40 ml of dichloromethane. The reaction is left under stirring at room temperature for 3 hours. The solvent is evaporated and then the crude reaction product is taken up in 30 ml of ethyl acetate. The solution is washed with saturated NaHCO3 solution. The organic phase is dried on sodium sulfate, filtered and concentrated to obtain 2.5 g of tert-butyl 2-(N-(4,4-difluorocyclohexyl)-2,2,2-trifluoroacetamido)-4-(4-methylpiperazin-1-yl)benzoate in the form of a light brown gum (yield=92%).

reactant | trifluoroacetic anhydride | 6.98 mmol, 0.99 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 8.06 mmol, 1.12 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 2-(4,4-difluorocyclohexylamino)-4-(4-methylpiperazin-1-yl)benzoate | 5.3 mmol, 2.2 g | FC1(CCC(CC1)NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)N1CCN(CC1)C)F | C22H33F2N3O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-(N-(4,4-difluorocyclohexyl)-2,2,2-trifluoroacetamido)-4-(4-methylpiperazin-1-yl)benzoate | 2.5 g | FC1(CCC(CC1)N(C(C(F)(F)F)=O)C1=C(C(=O)OC(C)(C)C)C=CC(=C1)N1CCN(CC1)C)F | C24H32F5N3O3
